US05932759
DE3245503 discloses a process for producing methoxymethylamine via butyl N,O-dimethylcarbamate as an intermediate. According to this prior art process, the starting material hydroxylamine sulfate is allowed to react with butyl chloroformate in the presence of sodium hydroxide to form butyl hydroxycarbamate which is then subjected to the steps of extraction with dichloromethane and of drying, and after the solvent is distilled off, said butyl hydroxycarbamate is dimethylated with dimethyl sulfate in an aqueous solution of sodium hydroxide, followed by hydrolysis with hydrochloric acid, whereby methoxymethylamine hydrochloride is obtained in 65% yield.

reactant | hydroxylamine sulfate | S(=O)(=O)(O)O.NO
reactant | butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
reactant | sodium hydroxide | [OH-].[Na+]
product | butyl hydroxycarbamate | ONC(OCCCC)=O | C5H11NO3
